delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.103812
Rb B C 29.419277
Rc C A 2.837474
Rload B 0 30.390197
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
